US07935674B2
4-Chloro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-indole obtained in Example 1-(3) and 5-bromothiophene-2-carbonyl chloride were treated in a manner similar to Example 2-(4) to give 4-chloro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-indol-3-yl 5-bromo-2-thienyl ketone as a yellow powder. APCI-Mass m/Z 670/672 (M+H). 1H-NMR (DMSO-d6) δ 1.67 (s, 3H), 1.97 (s, 3H), 1.99 (s, 3H), 2.05 (s, 3H), 4.11 (d, J=4.0 Hz, 2H), 4.30 (ddd, J=9.8, 4.2 and 3.9 Hz, 1H), 5.30 (t, J=9.8 Hz, 1H), 5.55 (t, J=9.6 Hz, 1H), 5.81 (t, J=9.3 Hz, 1H), 6.36 (d, J=9.0 Hz, 1H), 7.30 (d, J=7.5 Hz, 1H), 7.39 (t, J=8.0 Hz, 1H), 7.47 (d, J=3.9 Hz, 1H), 7.53 (d, J=4.0 Hz, 1H), 7.78 (d, J=8.3 Hz, 1H), 8.46 (s, 1H).

reactant | 4-Chloro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-indole | ClC1=C2C=CN(C2=CC=C1)[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C22H24ClNO9
reactant | 5-bromothiophene-2-carbonyl chloride | BrC1=CC=C(S1)C(=O)Cl | C5H2BrClOS
product | 4-chloro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-indol-3-yl 5-bromo-2-thienyl ketone | BrC1=CC=C(S1)C(=O)C1=CN(C2=CC=CC(=C12)Cl)[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C27H25BrClNO10S
